US20010020034A1
3-(3-Chloro-2,6-difluoro-4-methyl-benzyloxy)-5-[3-(4-dimethylamino-butyl)-ureido]-isothiazole-4-carboxylic acid amide
The title compound was prepared [4-carbamoyl-3-(3-chloro-2,6-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and N,N-diethyl-butane-1,4-diamine by the procedure analogous to Example 1. MS (APCl, m/z): 476 [M+H]+.

reactant | [4-carbamoyl-3-(3-chloro-2,6-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C(=C(C=C1F)C)Cl)F)C(N)=O)=O | C19H14ClF2N3O4S
reactant | N,N-diethyl-butane-1,4-diamine | C(C)N(CCCCN)CC | C8H20N2
product | 3-(3-Chloro-2,6-difluoro-4-methyl-benzyloxy)-5-[3-(4-dimethylamino-butyl)-ureido]-isothiazole-4-carboxylic acid amide | ClC=1C(=C(COC2=NSC(=C2C(=O)N)NC(=O)NCCCCN(C)C)C(=CC1C)F)F | C19H24ClF2N5O3S
